* C:\users\mariano\Escritorio\Enlace hacia spice\GIC-Fliege highpass notch.ASC.asc
R1 N002 vi {Q*R/a}
RG1 N002 N004 {R}
RG3 N003 vo {R}
RG4 vo N001 {R}
RG5 N001 vi {R}
C1 vi N002 {C}
CG2 N004 N003 {C}
XU1 N003 N002 vo opamp Aol=100K GBW=10Meg
XU2 N003 N001 N004 opamp Aol=100K GBW=10Meg
V1 vi 0 AC 1 1
R2 0 N002 {Q*R/(1-a)}
.inc opamp.sub
.ac dec 100 {ww/2/pi/10} {ww/2/pi*10}
.param k1=1 Q=5 wo1=ww
#.param wz=10e3 ww=2*pi*50
* Versión normalizada
* Versión desnormalizada
.param C={1/R/wo1} R1={R}
.param wz=1 ww=1
.param R=wz
* Configuración de la simulación
* Atenuador
.param a=1/2
* Basado en GIC bilineal (Schaumann 5.16)
.backanno
.end
