* Z:\home\mariano\Escritorio\Enlace hacia Docencia\TC2\scripts\analog filters\python\spice\Sallen Key montecarlo.asc
XU1 N001 Va Vo opamp Aol=100K GBW=10Meg
R§G1 Vb Vi {Rref}
R§G2 Va Vb {Rref}
R§Ga 0 N001 {Rref}
R§Gb N001 Vo {Rb}
C1 Vo Vb {Cref}
C2 0 Va {Cref}
V1 Vi 0 AC 1 1
.param znorm=1 wnorm=2*pi*15.7k Cref = 1u Rref = 1/(wnorm*Cref)
* Implementation
.ac dec 1000 {f0/10} {f0*10}
* Normalized
#.param znorm=1 wnorm=2*pi Cref = 1 Rref = 1/(wnorm*Cref)
* Simulation config
.param Q=sqrt(2)/2 K=3-1/Q Rb = (K-1)*Rref
* SOS1 Bandpass parameters
.param f0=wnorm/2/pi
.inc opamp.sub
.backanno
.end
